US04154934
(b) N-amino-L-proline
A solution of 10 g. of N-nitroso-L-proline in 500 ml. of 50% acetic acid is cooled in an ice bath and 40 g. of zinc dust is added gradually, with vigorous stirring, at a rate that the temperature of the reaction mixture is maintained below 10°. The addition requires about 15 minutes. The unreacted zinc dust is removed by filtration and the filtrate treated with hydrogen sulfide to precipitate the zinc as zinc sulfide. The precipitated zinc sulfide is removed by filtration and the filtrate evaporated to dryness. The residue is dissolved in 30 ml. of absolute ethanol and the solution allowed to remain overnight at 5°. The N-amino-L-proline, a yellow crystalline solid, is removed by filtration and melts at 153°-154° after drying.

reactant | N-nitroso-L-proline | N(=O)N1[C@H](C(=O)O)CCC1 | C5H8N2O3
catalyst | zinc | [Zn] | Zn
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-amino-L-proline | NN1[C@H](C(=O)O)CCC1 | C5H10N2O2
